US09334290B2
A mixture of 2-(3-fluoropyridin-2-yl)-N-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide (9.01 g, 24.3 mmol) and CDI (15.78 g, 97 mmol) in toluene (97 mL) was heated at 120° C. for 7 h. The cooled mixture was diluted with EtOAc and washed sequentially with water and brine. The combined aqueous layers were extracted with EtOAc, and the combined organic phases were dried and concentrated. The residue was purified by column chromatography on silica gel (220 g), eluting with EtOAc-hexanes (gradient from 20-100%), to provide 5-fluoro-2-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrido[1,2-c]pyrimidine-1,3(2H)-dione as a yellow solid (6.26 g, 65% yield). Mass spectrum m/z 397 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.11 (dd, J=7.6, 0.8 Hz, 1H), 7.94 (dd, J=7.5, 1.3 Hz, 1H), 7.35 (t, J=7.5 Hz, 1H), 7.23 (dd, J=7.8, 1.4 Hz, 1H), 6.85-6.76 (m, 1H), 6.35 (td, J=7.4, 5.0 Hz, 1H), 6.09 (s, 1H), 2.36 (s, 3H), 1.36 (s, 12H).

reactant | 2-(3-fluoropyridin-2-yl)-N-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide | 24.3 mmol, 9.01 g | FC=1C(=NC=CC1)CC(=O)NC1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C20H24BFN2O3
reactant | CDI | 97 mmol, 15.78 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | toluene | 97 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-fluoro-2-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrido[1,2-c]pyrimidine-1,3(2H)-dione | 6.26 g, 65% yield | FC1=CC=CN2C(N(C(C=C21)=O)C2=C(C(=CC=C2)B2OC(C(O2)(C)C)(C)C)C)=O | C21H22BFN2O4
